US07037927B2
5-methyl-2-phenylpyridine
Phenylboronic acid (732 mg, 6 mmol), 2-bromo-5-methylpyridine (1.03g, 5.99 mmol), and Pd (PPh3)4 (350 mg, 0.303 mmol) were heated in 0.4 M K2CO3 (30 mL, 12 mmol) and CH3CN (30 mL) at 90° overnight. The mixture was then cooled to room temperature and concentrated under reduced pressure. The residue was partitioned between brine and ethyl acetate. The organic layer was separated, dried (Na2SO4, filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (9:1 hexanes:ethyl acetate) to provide the title compound. 1H NMR (300 MHz, DMSO-d6) δ 8.50 (m, 1H), 8.05 (m, 2H), 7.85 (d, J=8.4 Hz, 1H), 7.68–7.71 (m, 1H), 7.37–7.50 (m, 3 H), 2.34 (s, 3H); MS (APCI+) m/z 170 (M+H)+.

reactant | Phenylboronic acid | 6 mmol, 732 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 2-bromo-5-methylpyridine | 5.99 mmol, 1.03g | BrC1=NC=C(C=C1)C | C6H6BrN
reactant | K2CO3 | 12 mmol, 0.4 M, 30 mL | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd (PPh3)4 | 0.303 mmol, 350 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | CH3CN | 30 mL | CC#N | C2H3N
product | 5-methyl-2-phenylpyridine | CC=1C=CC(=NC1)C1=CC=CC=C1 | C12H11N
